US08378118B2
Step-I: Preparation of 3-(7-Methoxy-6-methyl-indan-4-ylmethyl)-pentane-2,4-dione
To the solution of 7-Methoxy-6-methyl-indan-4-carbaldehyde (8.0 gm 0.042 mole) and Acetyl acetone (4.63 gm, 0.046 mole) in Toluene (80 ml), Piperidine (0.5 ml) and Acetic acid (0.5 ml) were added. The reaction mixture was refluxed over 3 A° molecular sieve using dean stark apparatus for 24 hours. Toluene was distilled under vacuum to give a crude product, which was purified by column chromatography using 5% Ethyl acetate in Hexane. The fractions were distilled to give 3.0 gm of condensed product It was dissolved in Methanol (60 ml) and hydrogenation was carried out over 5% w/w Palladium on Barium sulphate (350 mg) at 40-50 psi. using Hydrogen gas at 25-30° C. The reaction mixture was filtered through hyflow bed and distilled under vacuum to give a 2.9 gm of desired compound as a viscous oil.

reactant | 7-Methoxy-6-methyl-indan-4-carbaldehyde | 0.042 mole, 8.0 gm | COC1=C(C=C(C=2CCCC12)C=O)C | C12H14O2
reactant | Acetyl acetone | 0.046 mole, 4.63 gm | C(C)(=O)CC(C)=O | C5H8O2
reactant | Hydrogen | [H][H] | H2
solvent | Toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | Piperidine | 0.5 ml | N1CCCCC1 | C5H11N
solvent | Acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | Methanol | 60 ml | CO | CH4O
catalyst | Palladium | [Pd] | Pd
product | 3-(7-Methoxy-6-methyl-indan-4-ylmethyl)-pentane-2,4-dione | 2.9 gm, Yield: 25.1% | COC=1C(=CC(=C2CCCC12)CC(C(C)=O)C(C)=O)C | C17H22O3
